US08106070B2
tert-butyl[4-(4-{2-(acetylamino)-2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}phenyl)-1-methyl-1H-pyrazol-3-yl]carbamate
Ammonium acetate (1.17 g, 15.2 mmol) was added to an ambient temperature solution of tert-butyl [4-(4-{2-(acetylamino)-3-[(4,4-dimethyl-2-oxohexyl)amino]-3-oxopropyl}phenyl)-1-methyl-1H-pyrazol-3-yl]carbamate (160 mg, 0.30 mmol) in xylene (5 mL). After stirring at 150° C. for 1 h, the reaction mixture was quenched with saturated aqueous sodium bicarbonate and extracted with ethyl acetate and methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% acetone/methylene chloride afforded the title compound. (M+H) found: 509.

reactant | Ammonium acetate | 15.2 mmol, 1.17 g | C(C)(=O)[O-].[NH4+]
reactant | tert-butyl [4-(4-{2-(acetylamino)-3-[(4,4-dimethyl-2-oxohexyl)amino]-3-oxopropyl}phenyl)-1-methyl-1H-pyrazol-3-yl]carbamate | 0.30 mmol, 160 mg | C(C)(=O)NC(CC1=CC=C(C=C1)C=1C(=NN(C1)C)NC(OC(C)(C)C)=O)C(=O)NCC(CC(CC)(C)C)=O | C28H41N5O5
solvent | xylene | 5 mL | C=1(C(=CC=CC1)C)C | C8H10
product | tert-butyl[4-(4-{2-(acetylamino)-2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}phenyl)-1-methyl-1H-pyrazol-3-yl]carbamate | C(C)(C)(C)OC(NC1=NN(C=C1C1=CC=C(C=C1)CC(C=1NC=C(N1)CC(CC)(C)C)NC(C)=O)C)=O | C28H40N6O3
